US08202865B2
Step 1: methyl 4-cyano-3-methoxybenzoate
Triphenylphosphine polymer bound (50 mg; 0.15 mmol; 0.15 eq.), palladium (II) acetate (15.04 mg; 0.07 mmol; 0.07 eq.) and DMF (3 mL) were first mixed, purged with N2 and let stirring at RT for 2 h. The vial was then opened, zinc cyanide (117.43 mg; 1 mmol; 1 eq.) and methyl 4-bromo-3-methoxybenzoate (COMBI-BLOCKS; CA-4192; 245.07 mg; 1 mmol; 1 eq.) were added and the resulting mixture was purged once more before heating at 140° C. for 50 min. The reaction mixture was then filtrated through a glass frit and the resin was washed with Et2O (3×10 mL). The combined organic solutions were washed with water (3×5 mL), once with NaCl sat. solution (10 mL) and then dried over magnesium sulfate. Evaporation of the solvent gave the title compound as a white solid (137 mg; 72%). 1H NMR (DMSO-d6, 300 MHz) δ 7.91 (d, J=7.9 Hz, 1H), 7.66-7.62 (m, 2H), 4 (s, 3H), 3.90 (s, 3H). LC/MS (Method A): 232.8 (M+ACN)+. GC/MS: 191. HPLC (Method A), Rt 3.14 min (purity: 99.3%).

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-bromo-3-methoxybenzoate | 1 mmol, 245.07 mg, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.07 mmol, 15.04 mg, 0.07 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | zinc cyanide | 1 mmol, 117.43 mg, 1 eq. | [C-]#N.[Zn+2].[C-]#N
product | methyl 4-cyano-3-methoxybenzoate | 137 mg, 72% | C(#N)C1=C(C=C(C(=O)OC)C=C1)OC | C10H9NO3
